US06090950
1,3:4,6-Di-O-benzyliden-D-mannitol (Ligand 7) (DBM).
DBM was obtained according to the method described in J. Chem. Soc., I, 1977, 1123 or by the following procedure. A mixture of 12.5 g of D-mannitol, 12.5 g of benzaldehyde in 40 mL of dimethylformamide was treated with 5 mL of sulfuric acid added in one portion. The resulting mixture was allowed to stand at room temperature for 72 h and then poured into a mixture of 5 g of potassium carbonate, 0.5 L of ice water covered with a layer of hexane. The hexane layer containing unreacted benzaldehyde was removed and the aqueous layer was allowed to stand at 5-10° C. whereupon a white, cheese-like solid deposited thereon. The aqueous layer was filtered, and the solid air-dried and recrystallized from CHCl3 to afford 13.3 g (53%) of the above-titled compound as white crystals. The resulting white crystals were washed with dry hexane (2×10 mL) and benzene (10 mL), and then dissolved in hot benzene. The benzene solution was evaporated and the resulting solid residue dried over P2O5 in an Abderhalden apparatus for 18 h at 40° C./0.3 torr to provide an analytical specimen melting at 152-53° C. (189-91° C. (MeOH)): 1H NMR (90 MHz, CDCl3) δ3.54-3.65 (m, 2H, H-2 and H-5), 4.0 (d, 4H, H-1 and H-6), 4.22 (d, 2H, H-3 and H-4), 4.38 (br. s., 2H, OH), 5.52 (c, 2H, H-7 and H-8), 7.24-7.48 (m, Ph, Ph); 13C δ58.8 (C-3 and C-4), 70.55 (C-2, C-5), 78.1 (C-1, C-6), 100.34 (C-7, C-8), 125.49, 127.05, 127.17, 137.77 (Ph groups).

reactant | D-mannitol | 12.5 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | benzaldehyde | 12.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 1,3:4,6-Di-O-benzyliden-D-mannitol | 13.3 g, 53% | C1[C@H]([C@@H](OC(O1)C2=CC=CC=C2)[C@H]3[C@@H](COC(O3)C4=CC=CC=C4)O)O | C20H22O6
